US06939874B2
Trimethoxybenzene (100 g, 0.594 mol) was dissolved in AcOH (220 mL) and stirred while adding 70% HNO3 (69 mL, 1.088 mol) over 20 min. The temperature was kept at 70° C. by cooling as necessary in a water bath. The cooling bath was removed after addition and the mixture remained at 65° C. for several min before cooling. Ice/water was added to precipitate a solid product which was washed well with water. 1M NaOH (500 mL) was added and stirred with the solid for 5 min. The solid was collected, washed with water until the washings were colorless and dried in air, giving 3,4,5-trimethoxynitrobenzene as pale yellow needles.

reactant | Trimethoxybenzene | 0.594 mol, 100 g | COC=1C(=C(C=CC1)OC)OC | C9H12O3
reactant | HNO3 | 1.088 mol, 69 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 220 mL | CC(=O)O | C2H4O2
product | 3,4,5-trimethoxynitrobenzene | COC=1C=C(C=C(C1OC)OC)[N+](=O)[O-] | C9H11NO5
